### PR TITLE
Add addnBAC lemma to ssrnat

### PR DESCRIPTION
**Pull request by anton-trunov**
As @gares suggested [here](https://github.com/math-comp/mcb/issues/56#issuecomment-407386375), I'm opening this PR so the core developers could estimate if mathcomp would benefit from adding this lemma. Looking forward for your feedback. Thank you!

### CODE REVIEW

File: mathcomp/ssreflect/ssrnat.v [hunk 1]
```diff
@@ -512,6 +512,9 @@ Proof. by rewrite addnC; apply: subnKC. Qed.
 Lemma addnBA m n p : p <= n -> m + (n - p) = m + n - p.
 Proof. by move=> le_pn; rewrite -{2}(subnK le_pn) addnA addnK. Qed.
 
+Lemma addnBAC m n p : n <= m -> n <= p -> (m - n) + p = m + (p - n).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/ssrnat.v]: Nice addition, for the sake of uniformity (associativty lemma push parenthesis on the left), I would exchange the rhs and the lhs:
```
Lemma addnBAC m n p : n <= m -> n <= p -> m + (p - n) = m - n + p.
Proof. by move=> le_nm le_np; symmetry; rewrite addnC !addnBA // addnC. Qed.
```

**Comment by CohenCyril** [comment]
Actually, I'm mistaken, ... `AC` as refers to comutativity modulo associativity... and in your case, it does both associativity and commutativity... the corresponding statement should in fact be: 
```
addnBAC m n p : n <= m -> m - n + p = m + p - n.
```

**Comment by CohenCyril** [comment]
```
Lemma addnBAC m n p : n <= m -> m - n + p = m + p - n.
Proof. by move=> le_nm; rewrite addnC addnBA // addnC. Qed.

Lemma your_lemma m n p : n <= m -> n <= p -> m + (p - n) = (m - n) + p.
Proof. by move=> le_nm le_np; rewrite addnBA // addnBAC. Qed.
```

**Comment by anton-trunov** [comment]
Thanks a lot @CohenCyril! I wasn't really sure about the name. I just force-pushed the changes you proposed.

**Comment by gares** [comment]
I love the ABC one ;-)

**Comment by anton-trunov** [comment]
Thanks a lot!
